US07592363B2
4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]-3-METHOXYPHENOL
Prepared according to Example 116 from 3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole and benzyl bromide.

reactant | 3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | COC1=C(C=CC(=C1)OC)C1=NNC2=C(C=CC=C12)C(F)(F)F | C16H13F3N2O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-[2-BENZYL-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]-3-METHOXYPHENOL | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=C(C=C(C=C1)O)OC)C(F)(F)F | C22H17F3N2O2
